// Generated for: spectre
// Generated on: Nov  6 16:02:37 2015
// Design library name: cse562
// Design cell name: test_squarer
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters pW=2.4u pL=2u nW=2.4u nL=2u
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse562
// Cell name: squarer
// View name: schematic
subckt squarer I_In I_Out I_o Squared
    M4 (0 I_Out I_o vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
    M1 (0 I_Out I_In vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
    M3 (Squared I_o vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
    M2 (I_Out I_In vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
ends squarer
// End of subcircuit definition.

// Library name: cse562
// Cell name: test_squarer
// View name: schematic
V0 (vdd! 0) vsource type=dc dc=3
I13 (net10 net7 net9 0) squarer
Bias (0 net9) isource type=dc dc=60n m=1
Input (0 net1) isource type=dc m=1
N2 (net7 net1 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N1 (net4 net1 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N0 (net1 net1 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
P1 (net10 net4 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P0 (net4 net4 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=Input param=dc start=0 stop=100n oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I13:4 
saveOptions options save=allpub
