// Generated for: spectre
// Generated on: Dec 10 22:49:48 2015
// Design library name: cse562
// Design cell name: trans_gate_latch
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters nW=900n nL=600n pW=900n pL=600n
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse562
// Cell name: trans_gate_latch
// View name: schematic
V0 (vdd! 0) vsource type=dc dc=3v
N7 (net023 net040 net050 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N4 (net023 net021 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N2 (net021 net050 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N1 (net03 net040 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N0 (net018 net03 net050 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
P8 (net050 net03 net023 vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P3 (net023 net021 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P2 (net021 net050 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P1 (net03 net040 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P0 (net050 net040 net018 vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
V4 (net040 0) vsource type=pulse val0=0 val1=3 period=4u delay=100n \
        rise=2.0p fall=2.0p width=2u
V3 (net018 0) vsource type=pulse val0=0 val1=3 period=4u rise=200.000p \
        fall=200.000p width=2u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=16u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
