// Generated for: spectre
// Generated on: Dec 11 08:11:22 2015
// Design library name: cse562
// Design cell name: true_ff
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters nW=900n nL=600n pW=900n pL=600n
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse562
// Cell name: true_ff
// View name: schematic
N6 (Q net7 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
        ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N5 (net19 net5 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N4 (net7 CLK net19 net19) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N3 (net5 net3 net15 net15) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N2 (net15 CLK 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
         ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
N1 (net3 D 0 0) ami06N w=nW l=nL as=nW * 2.5 * (600n) ad=nW * 2.5 * (600n) \
        ps=(2 * nW) + (5 * (600n)) pd=(2 * nW) + (5 * (600n)) m=1 \
        region=sat
P9 (Q net7 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P7 (net7 net5 vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P5 (net5 CLK vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P4 (net3 CLK net10 net10) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
P1 (net10 D vdd! vdd!) ami06P w=pW l=pL as=pW * 2.5 * (600n) ad=pW * 2.5 * (600n) \
         ps=(2 * pW) + (5 * (600n)) pd=(2 * pW) + (5 * (600n)) m=1 \
        region=sat
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=32u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
